US08034812B2
Production of ethyl 6-iodoimidazo[1,2-b]pyridazine-2-carboxylate
Using 3-amino-6-iodopyridazine (2.0 g, 9.05 mmol), N,N-dimethylacetamide (20 mL), ethyl 3-bromo-2-oxopropanate (1.82 mL, 14.5 mmol) and disodium hydrogenphosphate (3.21 g, 22.6 mmol), and in the same manner as in Reference Example 3, the title compound (1.2 g, 44%) was obtained as a green powder.

reactant | 3-amino-6-iodopyridazine | 9.05 mmol, 2.0 g | NC=1N=NC(=CC1)I | C4H4IN3
reactant | ethyl 3-bromo-2-oxopropanate | 14.5 mmol, 1.82 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | disodium hydrogenphosphate | 22.6 mmol, 3.21 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
solvent | N,N-dimethylacetamide | 20 mL | CN(C(C)=O)C | C4H9NO
product | ethyl 6-iodoimidazo[1,2-b]pyridazine-2-carboxylate | 1.2 g, 44% | IC=1C=CC=2N(N1)C=C(N2)C(=O)OCC | C9H8IN3O2
